US07557213B2
Preparation of 1-(6-Methyl-pyridin-2-ylmethyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 120 mg (0.36 mmol) of 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide in 1 mL THF and 214 mg (0.78 mmol) of 5-iodo-2-trifluoromethyl-pyridine in 1.5 mL THF with 0.41 mL 2M isopropylmagnesium chloride. Yield: 81 mg of a white powder. LC-MSD, m/z for C23H16F3N3O2 [M+H]+=424.1; HPLC retention time: 2.2 min.

reactant | 1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid methoxy-methyl-amide | 0.36 mmol, 120 mg | CON(C(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C)C | C19H19N3O3
reactant | 5-iodo-2-trifluoromethyl-pyridine | 0.78 mmol, 214 mg | IC=1C=CC(=NC1)C(F)(F)F | C6H3F3IN
reactant | isopropylmagnesium chloride | 2M, 0.41 mL | C(C)(C)[Mg]Cl
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 1-(6-Methyl-pyridin-2-ylmethyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | CC1=CC=CC(=N1)CN1C=C(C(C2=CC=CC=C12)=O)C(=O)C=1C=NC(=CC1)C(F)(F)F | C23H16F3N3O2
